US06548522B1
2,2-Diphenyl-N-prop-2-ynyl-acetamide
The title compound, white solid, m.p. 131° C. and MS: m/e=249 (M+) was prepared in accordance with the general method of example 1 from diphenylacetyl chloride and prop-2-ynylamine.

reactant | diphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | prop-2-ynylamine | C(C#C)N | C3H5N
product | 2,2-Diphenyl-N-prop-2-ynyl-acetamide | C1(=CC=CC=C1)C(C(=O)NCC#C)C1=CC=CC=C1 | C17H15NO
